US07838543B2
4-Cyclohexyloxy-N-{2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-benzamide
The title compound is prepared by following Method A, using 4-cyclohexyloxy benzoic acid (0.20 g, 0.91 mmol), and N*2*-(2-Dimethylamino-ethyl)-N*2*-methyl-benzothiazole-2,6-diamine (0.17 g, 0.68 mmol) to afford the 0.15 g (36%). LC/MS: Retention time=5.23 min; (m/z): calcd for C25H32N4O2S: 453.6; found: 453.0.

reactant | 4-cyclohexyloxy benzoic acid | 0.91 mmol, 0.20 g | C1(CCCCC1)OC1=CC=C(C(=O)O)C=C1 | C13H16O3
reactant | N*2*-(2-Dimethylamino-ethyl)-N*2*-methyl-benzothiazole-2,6-diamine | 0.68 mmol, 0.17 g | CN(CCN(C=1SC2=C(N1)C=CC(=C2)N)C)C | C12H18N4S
product | 4-Cyclohexyloxy-N-{2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-benzamide | C1(CCCCC1)OC1=CC=C(C(=O)NC2=CC3=C(N=C(S3)N(C)CCN(C)C)C=C2)C=C1 | C25H32N4O2S
